Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old male past medical history of hyperlipidemia, 
obesity,
presenting with 1 month of progressive constipation, and 1 day 
of
back pain radiating to his L leg.  Patient reports he has 
chronic
constipation (normally moves bowels every other day, takes over
the counter bowel regimen), but that since he went on a car trip
earlier this month, he had developed worsening constipation, so
much so that he has had to use magnesium citrate and an 
enema--he
was seen in ___ for this earlier this month. Over the last day 
he
reports new onset lower back pain that radiates to his left leg. 

He reports ___.  Sharp/shooting.  Radiates from L lower back 
to
anterior portion of thigh.  Worse with ambulating/sitting up.  
No
fevers/chills.  No bowel or urinary incontinence.  

In the ED, VS were 97.5 52 120/76 16 98%RA.  Labs notable for 
WBC
6.6, Hgb 13.8, Plt 192, K 4.7, Cr 1.0, UA w < 1 WBC, no 
bacteria,
3 RBC.  He received 5mg PO valium, 30mg IV ketorolac, 4mg IV
Zofran x 2, 1L normal saline x 2, 4mg IV morphine x 1, 1mg IV
dilaudid x 2, 1mg IV Ativan x 1, 5mg IV valium x 1.  

Full 10 point review of systems positive where noted, otherwise
negative. 

 
Past Medical History:
Hyperlipidemia
R hip pain attributed to arthritis vs bursitis
s/p R achilles tendon repair

 
Social History:
___
Family History:
Mother had CAD s/p CABG, OSA

 
Physical Exam:
ADMISSION:
VS - 97.8 172/86 50 20 98%RA
Gen - prone in bed, very uncomfortable appearing
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normoactive bowel sounds, no
rebound/guarding
Rectal - normal rectal tone, no saddle anesthesia
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, ___ strength in lower extremities bilaterally,
proximally and distally; intact to light touch; positive pain
radiating from back into L thigh recreated with L leg lift;
Psych - appropriate

DISCHARGE:
Gen: well appearing, NAD
HEENT: NCAT
CV:RRR, no mrg
Resp: CTA ___
Abd:soft, nt, nd
Ext: no CCE
Skin: Clean, dry no rash
Neuro: no focal deficits, moves all 4 ext purposefully, walking 
halls without any deficits
 
Pertinent Results:
___ 11:10AM BLOOD WBC-6.6 RBC-4.84 Hgb-13.8 Hct-43.2 MCV-89 
MCH-28.5 MCHC-31.9* RDW-12.4 RDWSD-40.5 Plt ___
___ 07:25AM BLOOD WBC-5.0 RBC-4.38* Hgb-12.6* Hct-39.2* 
MCV-90 MCH-28.8 MCHC-32.1 RDW-12.3 RDWSD-40.2 Plt ___
___ 11:10AM BLOOD Glucose-96 UreaN-16 Creat-1.0 Na-138 
K-4.7 Cl-102 HCO3-26 AnGap-15
___ 07:25AM BLOOD Glucose-88 UreaN-17 Creat-1.0 Na-140 
K-3.8 Cl-107 HCO3-27 AnGap-10
___ 07:25AM BLOOD ALT-33 AST-27 AlkPhos-48 TotBili-0.5
___ 07:25AM BLOOD Calcium-9.8 Phos-2.9 Mg-2.1

IMAGING:
IMPRESSION: 
  
  
1. At L3-L4 a left central disc extrusion with 1.4 cm superior 
migration 
results in moderate spinal canal narrowing, impinging on the 
exiting left L3 
nerve root.  Moderate to severe left neural foraminal narrowing 
and crowding 
of the left subarticular zone is also noted. 
2. Additional degenerative changes at L4-L5 results in moderate 
left and mild 
to moderate right neural foraminal narrowing and at L5-S1 
results in moderate 
severe left-greater-than-right neural foraminal narrowing. 
  

 
Brief Hospital Course:
This is a ___ year old male with a past medical history of
hyperlipidemia, obesity, admitted with 1 month of progressive
constipation, and 1 day of back pain radiating to his L leg
concerning for acute spinal pathology

# Lower back pain radiating to L leg - distribution would be
consistent with L3-L4 herniation; given his job description
involves prolonged sitting, prolonged bending over, and heaving
lifting, may be occupational; extent of pain is what is
concerning to me, as he received many medications in the ED
without improvement in his symptoms (and he is opiate naïve per
my review of prescription monitoring database by prior provider)
- MRI L-spine: showed L3-L4 a left central disc extrusion with 
1.4 cm superior migration  results in moderate spinal canal 
narrowing.  Discussed findings with orthopedics, and will plan 
for ___, analgesics and f/u in ___ weeks.  Verbalized this plan 
to patient and his family.
-Naproxen 500mg BID with meals x 14 days
-Valium 5mg qhs: prn spasm
-Tramadol 50 q6prn pain
-___ as outpatient
-f/u closely with PCP
-___ with Dr. ___ as outpt

# Constipation - no obstipation; patient was placed on 
aggressive bowel regimen with instructions to continue them as 
an outpatient.
-Colace bid standing
-senna prn
-miralax prn

# Hyperlipidemia
- may resume statin as outpt

# Adrenal Adenoma
- noted on imaging

# Hypertension - SBP 170 on arrival; suspect secondary to pain

Nutrition: Regular diet
Prophylaxis
- DVT - HSQ
Access - PIV x 1
Contact - Patient, Wife ___ ___
Code status - Presumed full

Patient unexpectedly improved quickly.

___, MD
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 10 mg PO QPM 
2. Ibuprofen 800 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. Diazepam 5 mg PO QHS:PRN spasm 
do not drive or drink alcohol while taking 
RX *diazepam 5 mg 1 tab by mouth at bedtime Disp #*30 Tablet 
Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
3. Naproxen 500 mg PO Q12H 
RX *naproxen 500 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*28 Tablet Refills:*0
4. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*30 Packet Refills:*0
5. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*60 Tablet Refills:*0
6. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*60 Tablet Refills:*0
7. Rosuvastatin Calcium 10 mg PO QPM 
8. Outpatient Physical Therapy
Lumbar disc herniation 722.10 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lumbar disc herniation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for evaluation of back pain.  While 
you were here you had an MRI which showed lumbar disc hernation. 
 Please take Naproxen 500mg twice daily for the next two weeks, 
with food.  You may take tramadol if you need it, as well as 
valium at night for spasms.  Do not drink alcohol or drive when 
taking this medication.   For your constipation, please take 
Colace twice per day and senna at night if needed.  You may add 
miralax if necessary.

Lastly, please go to physical therapy as this will likely 
provide you the most long term relief of your pain.  Please 
follow up with your PCP and Dr. ___ from orthopedics 
for follow up.
 
Followup Instructions:
___